US06498164B1
Heated was a mixture of urea 0.601 g (10.0 mmol) and 3-methylbutylamine 5.0 mL (ca. 6 equivalents) at 150° C. for 24 hours attaching with a reflux cooler and during which time added more 3-methylbutylamine 2.5 mL. Removed was the excess amine under the reduced pressure and allowed to cool to room temperature to give a colorless solid. Purification by recrystallization from ethyl ether gave N,N′-bis(3-methylbutyl)urea 1.29 g as white plates (64.5% yield).

reactant | urea | 10.0 mmol, 0.601 g | NC(=O)N | CH4N2O
reactant | 3-methylbutylamine | 5.0 mL, ca. 6 equivalents | CC(CCN)C | C5H13N
reactant | 3-methylbutylamine | 2.5 mL | CC(CCN)C | C5H13N
product | N,N′-bis(3-methylbutyl)urea | 1.29 g, 64.5% yield | CC(CCNC(=O)NCCC(C)C)C | C11H24N2O
